US07312234B2
AMD 9593: Preparation of 1-(4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-3-phenyl-urea (hydrobromide salt)
To a cold (0° C.) solution of (4-aminomethyl-benzyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (0.136 g, 0.34 mmol) in CH2Cl2 (3.5 mL) was added phenyl isocyanate (41 μL, 0.38 mmol) and the resultant solution was stirred for 50 minutes. The cooling bath was removed and the mixture was concentrated under reduced pressure. Purification of the crude material by column chromatography on silica gel (25:1:1 CH2Cl2—CH3OH—NH4OH) provided the free base of the title compound (0.127 g, 72%) as a white solid.

reactant | (4-aminomethyl-benzyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.34 mmol, 0.136 g | NCC1=CC=C(CN(C2CCCC=3C=CC=NC23)CC2=NC3=C(N2)C=CC=C3)C=C1 | C25H27N5
reactant | phenyl isocyanate | 0.38 mmol, 41 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | CH2Cl2 | 3.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-3-phenyl-urea | 0.127 g, 72% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(CNC(=O)NC1=CC=CC=C1)C=C2 | C32H32N6O
